US08110585B2
trans-N-{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}propanamide
To a solution of trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine (600 mg, 2.98 mmol) and triethylamine (499 μL, 3.58 mmol) in tetrahydrofuran (15 mL) was added propionic anhydride (420 μL, 3.28 mmol) under ice-cooling, and the mixture was stirred at room temperature for 5 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) to give the title compound (521 mg, yield 68%).

reactant | trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine | 2.98 mmol, 600 mg | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CN)=C1 | C12H15N3
reactant | triethylamine | 3.58 mmol, 499 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 3.28 mmol, 420 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | trans-N-{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}propanamide | 521 mg, yield 68% | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CNC(CC)=O)=C1 | C15H19N3O
